US04351977
Bicyclo[10.3.0]pentadeca-1,12-diene(intermediate compound not isolated)
2.37 ml of a 30% solution of sodium methoxide in methyl alcohol (10.2 mmole) were added dropwise to a solution of 0.728 g (2.0 mmole) of 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone in 10 ml of toluene as indicated sub letter b). After 90 min. of heating, 0.57 ml (8.0 mmole) of dimethylsulfoxide (DMSO) were added to the reaction mixture which was then heated to reflux for 4 further hours. After extraction and distillation, there were isolated 0.310 g (76% yield) of the desired compound.

reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl alcohol | 10.2 mmole | CO | CH4O
reactant | 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone | 2.0 mmole, 0.728 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1C(CCCCCCCCCC1)=O | C21H32O3S
reactant | dimethylsulfoxide | 8.0 mmole, 0.57 ml | CS(=O)C | C2H6OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Bicyclo[10.3.0]pentadeca-1,12-diene | 0.310 g, 76% yield | C12=CCCCCCCCCCC2=CCC1 | C15H24
